US08563717B2
6-Amino-2-(butyloxy)-9-[2-(1-cyclopentyl-4-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 80 from 2-(butyloxy)-8-(methyloxy)-9-[2-(4-piperidinyl)ethyl]-9H-purin-6-amine and iodocyclohexane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[2-(4-piperidinyl)ethyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CCNCC1)OC)N | C17H28N6O2
reactant | iodocyclohexane | IC1CCCCC1 | C6H11I
product | 6-Amino-2-(butyloxy)-9-[2-(1-cyclopentyl-4-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCC1CCN(CC1)C1CCCC1)=O | C21H34N6O2
